US07838674B2
d) {1-[(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidene)-hydroxy-methyl]-cyclobutyl}-carbamic acid tert-butyl ester
1-tert-Butoxycarbonylamino-cyclobutanecarboxylic acid (1.0 g, 4.6 mmol) and Meldrum's acid (2,2-dimethyl-[1,3]dioxane-4,6-dione, 0.74 g, 5.1 mmol) are dissolved in 20 ml dichloromethane. 4-Dimethylaminopyridin (0.88 g, 7.2 mmol) and EDCl (1.07 g, 5.6 mmol) are added and the mixture is left in a refrigerator (4° C.) overnight. The reaction mixture is diluted with additional 200 ml dichloromethane and washed twice with 0.1 N HCl and with brine. Drying of the organic phase and evaporation of the solvent delivered the crude title compound which is used in the subsequent step without further purification.

reactant | 1-tert-Butoxycarbonylamino-cyclobutanecarboxylic acid | 4.6 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)O | C10H17NO4
reactant | Meldrum's acid | 5.1 mmol, 0.74 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | EDCl | 5.6 mmol, 1.07 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-Dimethylaminopyridin | 7.2 mmol, 0.88 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | {1-[(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylidene)-hydroxy-methyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C(O)=C1C(OC(OC1=O)(C)C)=O)=O | C16H23NO7
